US03978057
When 4-isopropylamino-6-chloro-3-hydrazino pyridazine is substituted for 4-ethylamino-6-chloro-3-hydrazino pyridazine in the preceeding process, 4-isopropylamino-6-chloro-3-hydrazino pyridazine dihydrochloride (m.p. 209° to 212°C.) is obtained.

reactant | 4-isopropylamino-6-chloro-3-hydrazino pyridazine | C(C)(C)NC1=C(N=NC(=C1)Cl)NN | C7H12ClN5
reactant | 4-ethylamino-6-chloro-3-hydrazino pyridazine | C(C)NC1=C(N=NC(=C1)Cl)NN | C6H10ClN5
product | 4-isopropylamino-6-chloro-3-hydrazino pyridazine dihydrochloride | Cl.Cl.C(C)(C)NC1=C(N=NC(=C1)Cl)NN | InChI=1S/C7H12ClN5.2ClH/c1-4(2)10-5-3-6(8)12-13-7(5)11-9;;/h3-4H,9H2,1-2H3,(H,10,12)(H,11,13);2*1H
